US05300717
1,2-dimethyl-4-isopropenylbenzene is reacted with hydrogen chloride to give 1,2-dimethyl-4-(α-chloroisopropyl)benzene and finally

reactant | 1,2-dimethyl-4-isopropenylbenzene | CC1=C(C=C(C=C1)C(=C)C)C | C11H14
reactant | hydrogen chloride | Cl | ClH
product | 1,2-dimethyl-4-(α-chloroisopropyl)benzene | CC1=C(C=C(C=C1)C(C)(C)Cl)C | C11H15Cl
